US06200975B1
3-(Pyrazin-2-yl)-6-(pyrid-2-yl)methyloxy-1,2,4-triazolo[3,4-a]phthalazine
The title-compound was prepared from 6-chloro-3-(pyrazin-2-yl)-1,2,4-triazolo[3,4-a]phthalazine and 2-pyridylcarbinol using the procedure given for Example 98, 1H NMR (360 MHz, CDCl3) δ 5.77 (2H, s, CH2), 7.40 (1H, t, J=6.6 Hz, Ar—H), 7.71 (1H, d, J=7.8 Hz, Ar—H), 7.95-8.00 (2H, m, 2 of Ar—H), 8.08 (1H, t, J=7.6 Hz, Ar—H), 8.40 (1H, d, J=8.0 Hz, Ar—H), 8.70 (2H, m, 2 of Ar—H), 8.78 (1H, m, Ar—H), 8.88 (1H, s, Ar—H), 9.58 (1H, s, Ar—H); MS (ES30) m/e 356 [MH]+.

reactant | 6-chloro-3-(pyrazin-2-yl)-1,2,4-triazolo[3,4-a]phthalazine | ClC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NC=CN=C2 | C13H7ClN6
reactant | 2-pyridylcarbinol | N1=C(C=CC=C1)CO | C6H7NO
product | 3-(Pyrazin-2-yl)-6-(pyrid-2-yl)methyloxy-1,2,4-triazolo[3,4-a]phthalazine | N1=C(C=NC=C1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC2=NC=CC=C2 | C19H13N7O
